US04305945
5-(5,6-Dimethyl-3-pyridylmethyl)-2-nitroamino-4-pyrimidone is reacted with 5-aminopentanol in refluxing ethanol to give 2-(5-hydroxypentylamino)-5-(5,6-dimethyl-3-pyridylmethyl)-4-pyrimidone which is reacted with cyanamide and hydrogen chloride to give 2-[5-(O-isoureido)pentylamino]-5-(5,6-dimethyl-3-pyridylmethyl)-4-pyrimidone.

reactant | 5-(5,6-Dimethyl-3-pyridylmethyl)-2-nitroamino-4-pyrimidone | CC=1C=C(C=NC1C)CC=1C(NC(=NC1)N[N+](=O)[O-])=O | C12H13N5O3
reactant | 5-aminopentanol | NCCCCCO | C5H13NO
solvent | ethanol | C(C)O | C2H6O
product | 2-(5-hydroxypentylamino)-5-(5,6-dimethyl-3-pyridylmethyl)-4-pyrimidone | OCCCCCNC1=NC=C(C(N1)=O)CC=1C=NC(=C(C1)C)C | C17H24N4O2
